US07449466B2
Production Example 9 was repeated except that 5-bromo-2-methoxytoluene was replaced with 1-benzyloxy-4-bromo-2-chlorobenzene (861 mg), and l-phenethylpiperazine was replaced with 1-(3-cyclohexylpropyl)piperazine (730 mg). Whereby obtained crude product was purified on silica gel column chromatography (eluent, chloroform: methanol=10:1) to provide 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine (1.24 g).

reactant | 5-bromo-2-methoxytoluene | BrC=1C=CC(=C(C1)C)OC | C8H9BrO
reactant | 1-benzyloxy-4-bromo-2-chlorobenzene | 861 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)Cl | C13H10BrClO
reactant | l-phenethylpiperazine | C(CC1=CC=CC=C1)N1CCNCC1 | C12H18N2
reactant | 1-(3-cyclohexylpropyl)piperazine | 730 mg | C1(CCCCC1)CCCN1CCNCC1 | C13H26N2
product | 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine | 1.24 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCN(CC1)CCCC1CCCCC1)Cl | C26H35ClN2O
